US06677364B2
A solution of 3-[(4-methoxy)tetrahydropyran-4-yl]-α-bromotoluene (1.0 g, 3.87 mmol) in 10 mL of anhydrous THF was cooled to 5° C. A solution of methyl 3-mercaptopropionate (0.46 g, 3.87 mmol) and DBU (0.59 g, 3.87 mmol) in 10 mL of THF was added while maintaining the temperature at 5° C. The reaction mixture was stirred for 1 h at 5° C. and for 18 h at room temperature. The reaction mixture was diluted with 200 mL of ethyl acetate, and this solution was washed with 1 N HCl (1×100 mL), saturated sodium bicarbonate (1×100 mL), brine (1×100 mL), dried over magnesium sulfate, filtered and concentrated. The concentrated residue was purified by flash column chromatography on silica gel, eluting with 20% ethyl acetate in hexane, to give 0.94 g (75%) of methyl 3-[[(4-methoxy)-tetrahydro-pyran-4-yl]phenylmethylthio]propionate as a pink oil: 1H NMR (CDCl3/300 MHz) δ 1.93-2.09 (m, 4H), 2.54 (t, 2H, J=7.4 Hz), 2.68 (t, 2H, J=7.5 Hz), 2.97 (s, 3H), 3.68 (s, 3H), 3.75 (s, 2H), 3.80-3.92 (m, 4H), 7.23-7.36 (m, 4H). HRMS calcd for C17H24O4S 325.1474. Found 325.1494.

reactant | 3-[(4-methoxy)tetrahydropyran-4-yl]-α-bromotoluene | 3.87 mmol, 1.0 g | COC1(CCOCC1)C=1C=C(C=CC1)CBr | C13H17BrO2
reactant | methyl 3-mercaptopropionate | 3.87 mmol, 0.46 g | SCCC(=O)OC | C4H8O2S
reactant | DBU | 3.87 mmol, 0.59 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3-[[(4-methoxy)-tetrahydro-pyran-4-yl]phenylmethylthio]propionate | 0.94 g, 75% | COC1(CCOCC1)C(SCCC(=O)OC)C1=CC=CC=C1 | C17H24O4S
